US07402598B2
(iii) 8-(Benzyloxy)-5-[(1R)-2-{benzyl[6-(4-phenylbutoxy)hexyl]amino}-1-(tetrahydro-2H-pyran-2-yloxy)ethyl]quinolin-2(1H)-one
8-(Benzyloxy)-5-[(1R)-2-bromo-1-(tetrahydro-2H-pyran-2-yloxy)ethyl]quinolin-2(1H)-one (100 mg), N-benzyl-6-(4-phenylbutoxy)hexan-1-amine (Tetrahedron Letters. 1994, 35, 9375) (112 mg) and diisopropylethylamine (77 μl) were heated in a reacti-vial at 120° C. for 4 h prior to cooling to room temperature. The mixture was purified by chromatography (Hexane-EtOAc 2:1, biotage) afforded the title compound (85 mg). LCMS RT=3.46 min

reactant | 8-(Benzyloxy)-5-[(1R)-2-bromo-1-(tetrahydro-2H-pyran-2-yloxy)ethyl]quinolin-2(1H)-one | 100 mg | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)[C@H](CBr)OC1OCCCC1 | C23H24BrNO4
reactant | N-benzyl-6-(4-phenylbutoxy)hexan-1-amine | 112 mg | C(C1=CC=CC=C1)NCCCCCCOCCCCC1=CC=CC=C1 | C23H33NO
reactant | diisopropylethylamine | 77 μl | C(C)(C)N(CC)C(C)C | C8H19N
product | 8-(Benzyloxy)-5-[(1R)-2-{benzyl[6-(4-phenylbutoxy)hexyl]amino}-1-(tetrahydro-2H-pyran-2-yloxy)ethyl]quinolin-2(1H)-one | 85 mg | C(C1=CC=CC=C1)OC=1C=CC(=C2C=CC(NC12)=O)[C@H](CN(CCCCCCOCCCCC1=CC=CC=C1)CC1=CC=CC=C1)OC1OCCCC1 | C46H56N2O5
